US06936608B2
7-[3-(1-Methyl-1H-pyrazol-3-yl)phenyl]-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine
A mixture of 3-[3-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)phenyl]-1-methyl-1H-pyrazole (from above), 7-bromo-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine (300 mg, 1.1 mmol) and sodium carbonate (1.7 ml of a 2 N solution, 3.4 ml) in THF (7 ml) was degassed with nitrogen for 15 min. After this time tetrakis(triphenylphosphine)palladium(0) (130 mg, 0.11 mmol) was added and the mixture heated at reflux for 18 h. The solvent was evaporated in vacuo and the residue partitioned between ethyl acetate (30 ml) and 1 N NaOH (2×30 ml). The organic phase was separated and washed with brine (30 ml), dried (MgSO4) and evaporated. The residue was chromatographed (silica gel, 2.5% MeOH/CH2Cl2) and the fractions containing the desired product were combined and evaporated. The residue was triturated with diethyl ether twice to afford the title compound (140 mg, 36%) as a colourless solid: 1H NMR (400 MHz, CDCl3) δ 3.99 (3H, s), 6.62 (1H, d, J 2.2 Hz), 7.43 (1H, d, J 2.2 Hz), 7.58 (1H, t, J 7.8 Hz), 7.89 (1H, dd, J 7.8, 1.2 Hz), 8.03 (1H, d, J 7.9 Hz), 8.51 (1H, t, J 1.5 Hz), 8.68 (1H, s), 8.80 (1H, s); MS (ES+) m/z 345 [M+H]+.

reactant | 3-[3-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)phenyl]-1-methyl-1H-pyrazole | CC1(COB(OC1)C=1C=C(C=CC1)C1=NN(C=C1)C)C | C15H19BN2O2
reactant | 7-bromo-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine | 1.1 mmol, 300 mg | BrC1=CN=C2N1N=CC(=N2)C(F)(F)F | C6H2BrF3N4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 7 ml | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.11 mmol, 130 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-[3-(1-Methyl-1H-pyrazol-3-yl)phenyl]-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine | 140 mg, 36% | CN1N=C(C=C1)C=1C=C(C=CC1)C1=CN=C2N1N=CC(=N2)C(F)(F)F | C16H11F3N6
